US06878727B2
Step 3: 6-[2-cyclopentyl-2-hydroxy-4-(4-methoxy-phenyl)-but-3-ynyl]-2,2-dimethyl-[1,3]dioxin-4-one
To a solution of 6-(2-cyclopentyl-2-hydroxy-but-3-ynyl)-2,2-dimethyl-[1,3]dioxin-4-one (66 mg, 0.25 mmol), 4-bromoanisole (34.4 μL, 0.275 mmol), diisopropylamine(42.4 μL, 0.30 mmol), P(t-Bu)3 (30 μL of 10% by weight solution in hexanes, 0.015 mmol), and anhydrous dioxane (220 μL), under argon, was added Pd(PhCN)2Cl2 (2.87 mg, 0.0075 mmol), and CuI (0.95 mg, 0.005 mmol), at room temperature. The reaction was vacuum-flushed with argon (3×), then stirred at room temperature for 2.5 hours. HPLC at this time indicated −60% conversion. The reaction was then placed in a 35° C. oil bath for an additional 2 hours, at which time all starting material had been consumed. The reaction was concentrated and purified by silica gel chromatography-eluted with 30% ethytacetate/hexanes, which gave 62 mg of the product (67% yield). 1H NMR (CDCl3): δ 1.63 (m, 4H), 1.72 (s, 3H), 1.73 (s, 3H), 2.23 (pentet, 1H, J=8.0 Hz), 2.54(s, 1H), 2.65 (s, 2H), 3.81 (s, 3H), 5.47 (s, 1H), 6.83 (d, 2H, J=8.7 Hz), 7.31 (d, 2H, J=8.1 Hz); ESIMS (M+Na+): 393.2.

reactant | 6-(2-cyclopentyl-2-hydroxy-but-3-ynyl)-2,2-dimethyl-[1,3]dioxin-4-one | 0.25 mmol, 66 mg | C1(CCCC1)C(CC1=CC(OC(O1)(C)C)=O)(C#C)O | C15H20O4
reactant | 4-bromoanisole | 0.275 mmol, 34.4 μL | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | diisopropylamine | 0.30 mmol, 42.4 μL | C(C)(C)NC(C)C | C6H15N
catalyst | Pd(PhCN)2Cl2 | 0.0075 mmol, 2.87 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | CuI | 0.005 mmol, 0.95 mg | [Cu]I
catalyst | P(t-Bu)3 | 0.015 mmol, 30 μL | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
solvent | dioxane | 220 μL | O1CCOCC1 | C4H8O2
product | 6-[2-cyclopentyl-2-hydroxy-4-(4-methoxy-phenyl)-but-3-ynyl]-2,2-dimethyl-[1,3]dioxin-4-one | 62 mg, 67% yield | C1(CCCC1)C(CC1=CC(OC(O1)(C)C)=O)(C#CC1=CC=C(C=C1)OC)O | C22H26O5
